2194-02-25 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Initiated amiodarone for a-fib w/RVR and pt converted to sinus after
   initial bolus. DC'd amiodarone
   - Received lasix 20mg IV x1 for SOB/pulm edema on CXR and responded
   well. Overnight neutral fluid balance with persistent pulmonary rales,
   gave another lasix 20mg IV x1.
   - Per thoracics: ABX (CTX/fluc) for OP tear for 10d (final day [**3-1**])
   total course.
   - Per thoracics: Continue npo overnight and reassess on [**2-25**].
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-2-23**] 05:00 AM
   Vancomycin - [**2194-2-23**] 09:02 AM
   Ceftriaxone - [**2194-2-24**] 12:00 PM
   Fluconazole - [**2194-2-24**] 06:00 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2194-2-24**] 07:49 AM
   Heparin Sodium (Prophylaxis) - [**2194-2-24**] 07:49 AM
   Metoprolol - [**2194-2-24**] 08:45 AM
   Diltiazem - [**2194-2-24**] 09:05 AM
   Heparin Sodium - [**2194-2-24**] 01:00 PM
   Furosemide (Lasix) - [**2194-2-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-2-25**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 97 (88 - 136) bpm
   BP: 132/69(85) {86/52(62) - 141/77(90)} mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
             Total In:
                                                                  1,210 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                  1,210 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    975 mL
   Urine:
                                                                    900 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                   -804 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   351 K/uL
   11.6 g/dL
   121 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.2 mEq/L
   32 mg/dL
   114 mEq/L
   149 mEq/L
   35.1 %
   18.0 K/uL
        [image002.jpg]
                             [**2194-2-22**]  08:28 PM
                             [**2194-2-23**]  01:00 AM
                             [**2194-2-23**]  03:15 AM
                             [**2194-2-23**]  07:17 AM
                             [**2194-2-23**]  12:33 PM
                             [**2194-2-23**]  05:19 PM
                             [**2194-2-23**]  05:38 PM
                             [**2194-2-24**]  02:11 AM
                             [**2194-2-24**]  05:26 PM
                             [**2194-2-25**]  05:00 AM
   WBC
   23.4
   20.0
   18.0
   Hct
   36.9
   34.7
   35.1
   Plt
   297
   317
   351
   Cr
   0.8
   0.7
   0.7
   0.8
   0.8
   TropT
   0.03
    0.03
   0.03
   TCO2
   26
   25
   24
   Glucose
   117
   113
   109
   121
   Other labs: PT / PTT / INR:15.8/75.8/1.4, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b tracheal tear and
   subcutaneous emphysema.  Now transferred to CCU for management of afib
   with RVR.
   # Wide Complex Tachycardia: ECG consistent with afib with RVR in
   setting of known LBBB.  Pt converted to sinus following amiodarone
   bolus. Amiodarone was d/c
d.  Now on heparin ggt bridging to coumadin.
   Afib likely exacerbated by CHF/mediastinitis.
   -- start Heparin IV drip
 coumadin
   -- q6h PTT for goal PTT 60-100
   # CHF: NICDM. Patient with EF of 30% on LV at OSH.  Patient desaturated
   while in the SICU, likely secondary to mild flash pulm edema in setting
   of afib.  Oxygenation improved with Atrovent and Lasix 20mg IV x 2.
   -- Lasix IV PRN, dry on lung exam, but still some LE edema
   -- Goal -1L neg today
   -- [**Hospital1 **] lytes
   -- cont Enaliprat IV
   -- consider carvedilol when able to tolerate orals
   # Subcutaneous Emyphysema/Mediastinitis:  Most likely tracheal tear
   during intubation attempt.  She is currenlty on CTX and Fluc for
   treatment of ?mediastinitis as she was febrile at OSH. WBC trending
   down.
   -- cont CTX, Fluc (total 10d course final day [**3-2**])
   -- Consider repeat CXR
   -- speak to Thoracics regarding NPO status
   -- Video swallow
   # HTN: on enalapril at home, cont Enalipril IV while NPO
   # Anxiety/Depression: hold Zoloft and Mirtazapine while NPO. Hold
   Lorazepam IV given somnolence.
   # Hyperlipidemia: hold statin while NPO
   # Hyperthyroidism: restart Levothyroxine
   FEN: NPO as above, will speak to thoracics regarding diet advancement
   ACCESS: PIV's
   PROPHYLAXIS: Heparin gtt, bowel regimen, d/c famotidine as not
   -Bowel regimen with
   CODE: Full Code
   DISPO: Cardiology floor service for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-2-24**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I reviewed ajj the data,examined Pt and discussed management issues.
   We will try to switch to PO meds after Ba Swallow.
   Spent 35 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-2-25**] 12:55 ------

2194-02-26 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2194-2-25**]:
   - Pt back into a fib with RVR, wide complex from LBBB, gave two boluses
   of 5mg of metoprolol with no effect.  Gave bolus of 150mg of amiodarone
   with better effect, HR down to 100s.  Amiodarone drip following at
   1mg/min, then decreased to 0.5mg/min.  Much improved rate.
   - During this time she was febrile to 101.6.  Sent UA, urine cultures,
   blood cultures, and started on flagyl for anaerobic coverage.
   - negative 1.4L at 4pm
   - Video swallow has not been done
   - Free water deficit 3.3L, gave 500cc bolus of D5W
   - Requested ativan for anxiety, gave 0.25mg IV as cannot take PO
   - Echo on [**2-25**] showed LVEF of 20%, 3+ MR
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-2-23**] 09:02 AM
   Ceftriaxone - [**2194-2-24**] 12:00 PM
   Fluconazole - [**2194-2-25**] 08:45 PM
   Metronidazole - [**2194-2-26**] 02:32 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2194-2-25**] 10:30 AM
   Metoprolol - [**2194-2-25**] 01:00 PM
   Lorazepam (Ativan) - [**2194-2-26**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-2-26**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.8
C (98.3
   HR: 90 (80 - 151) bpm
   BP: 133/72(87) {100/55(66) - 139/80(196)} mmHg
   RR: 27 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
             Total In:
                                                                  1,561 mL
                                                                    360 mL
   PO:
             TF:
   IVF:
                                                                  1,561 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    158 mL
   Urine:
                                                                  2,165 mL
                                                                    158 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -604 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GENERAL: Awake/alert, Oriented x2 to self and date, when asked for
   place she said [**Hospital1 **] in [**State 5270**], mild diaphoresis
   HEENT: NCAT, EOMI, MMM, +pursed lip breathing, crepitance to the
   midface.
   NECK: Asymmetric swelling R>L, Edematous, with +subcutaneous
   emphysemia, JVP unappreciable [**12-23**] edema
   CARDIAC: Regular, +S1/S2, no [**1-24**] holosystolic murmur appreciated at the
   apex, fixed split s2 (vs. s3)
   LUNGS: Decreased Breath sounds at bilateral bases with mild crackles,
   +expiratory ronchi, no wheezes
   ABDOMEN: Soft, NTND, normal BS
   EXTREMITIES: No c/c/e
   SKIN: No rashes
   PULSES:  +2 radial and pedal
   Labs / Radiology
   416 K/uL
   11.5 g/dL
   179 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.7 mEq/L
   30 mg/dL
   108 mEq/L
   145 mEq/L
   33.6 %
   19.4 K/uL
        [image002.jpg]
                             [**2194-2-23**]  07:17 AM
                             [**2194-2-23**]  12:33 PM
                             [**2194-2-23**]  05:19 PM
                             [**2194-2-23**]  05:38 PM
                             [**2194-2-24**]  02:11 AM
                             [**2194-2-24**]  05:26 PM
                             [**2194-2-25**]  05:00 AM
                             [**2194-2-25**]  02:58 PM
                             [**2194-2-25**]  07:20 PM
                             [**2194-2-26**]  03:10 AM
   WBC
   20.0
   18.0
   19.4
   Hct
   34.7
   35.1
   33.3
   33.6
   Plt
   [**Telephone/Fax (3) 5266**]
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.6
   TropT
   0.03
    0.03
   0.03
   TCO2
   24
   Glucose
   113
   109
   121
   179
   Other labs: PT / PTT / INR:16.9/79.5/1.5, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b tracheal tear and
   subcutaneous emphysema.  Now transferred to CCU for management of afib
   with RVR. Febrile overnight with episode of afib/rvr, converted to
   sinus with amiodarone.
   # Wide Complex Tachycardia: ECG consistent with afib with RVR in
   setting of known LBBB.  Pt converted to sinus following amiodarone
   bolus for the second time during CCU admission. Amiodarone continued
   0.5mg/min gtt.  Now on heparin gtt. Afib likely exacerbated by
   CHF/mediastinitis.
   -- start Heparin IV drip
 coumadin
   -- q6h PTT for goal PTT 60-100
   -- continue amiodarone gtt until mediastinitis/febrile illness has
   resolved
   # CHF: NICDM. Patient with EF of 15-20%.  Patient desaturated while in
   the SICU prior to ccu admission, likely secondary to mild flash pulm
   edema in setting of afib.  Oxygenation improved with Atrovent and Lasix
   20mg IV x 2.
   -- Lasix IV PRN, drier today on lung exam, but still some bibasilar
   crackles.
   -- Goal -1.5L neg today
   -- [**Hospital1 **] lytes
   -- cont Enaliprat IV
   -- consider carvedilol when able to tolerate orals
   # Hypernatremia:  Na 150 yesterday with water deficit of 3.3 liters
   responded well to 500cc D5 bolus. Likely secondary to febrile illness
   and active diuresis for CHF.
   -- Will monitor Na ([**Hospital1 **] lytes) today
   -- gently bolus with D5 PRN
   # Subcutaneous Emyphysema/Mediastinitis:  Most likely tracheal tear
   during intubation attempt.  She is currenlty on flagyl, CTX and Fluc
   for treatment of ?mediastinitis as she was febrile overnight with small
   bump in WBC.
   -- cont flagyl, CTX, Fluc (total 10d course final day [**3-2**])
   -- Consider repeat CT to look for abscess if fever spike
   -- speak to Thoracics regarding plan
   -- Video swallow, if OK then transition to POs
   # HTN: on enalapril at home, cont Enalipril IV while NPO
   # Anxiety/Depression: hold Zoloft and Mirtazapine while NPO. Hold
   Lorazepam IV given somnolence.
   # Hyperlipidemia: hold statin while NPO
   # Hyperthyroidism: restart Levothyroxine when POs OK
   FEN: NPO as above, will speak to thoracics regarding diet advancement
   ACCESS: PIV's
   PROPHYLAXIS: Heparin gtt, bowel regimen, d/c famotidine
   CODE: Full Code
   DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-2-25**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Reviewd overnight course and dat.
   Has spiked a Temp and being cultured.will need to exclude mediastinal
   abscess
   If fever persists,?Chest CT
   To have Ba swallow to see if perforation has healed,
   Spent 45 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-2-26**] 13:00 ------

2194-02-27 05:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Videoswallow showed persistent esophageal tear so kept NPO and IV
   meds
   - Spiked fever to 100.7 in afternoon. CT scan showed esophageal perf
   with associated abscess. Antibiotics were switched to
   Vanc/Zosyn/Cipro/Fluconazole
   Thoracics was called and stopped hep gtt and coumadin and sent her to
   surgery to drain abscess. Back to our service after I&D which showed
   peas and carrots in mediastinum and abscess. Penrose in placed for
   drainage. Also placed PEG which can be used for TFs and meds at
   11pm4/9/09. Pt to remain NPO X 7 days then video swallow to prove tear
   fixed before can eat anything. Dont restart heparin til thoracics says
   to.
   - Was even at 4pm so gave another 20mg IV lasix.
   - Stitches removed.
   - Aline placed prior to OR by surgery team
   - K 2.9 this am. Receiving 50meq KCL in SW through PIV.
   - TTE never came through on fax machine
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2194-2-24**] 12:00 PM
   Metronidazole - [**2194-2-26**] 11:00 AM
   Ciprofloxacin - [**2194-2-26**] 05:00 PM
   Vancomycin - [**2194-2-26**] 07:00 PM
   Fluconazole - [**2194-2-26**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-2-27**] 12:45 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2194-2-26**] 04:00 PM
   Fentanyl - [**2194-2-27**] 05:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-2-27**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.6
   HR: 100 (82 - 103) bpm
   BP: 148/66(89) {122/52(72) - 148/66(89)} mmHg
   RR: 20 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 63 Inch
             Total In:
                                                                  2,179 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  2,179 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  2,248 mL
                                                                    237 mL
   Urine:
                                                                  2,138 mL
                                                                    187 mL
   NG:
   Stool:
   Drains:
   50 mL
   Balance:
                                                                    -69 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   GENERAL: Awake/alert, Oriented x2 to self and date, when asked for
   place she said [**Hospital1 **] in [**State 5270**], mild diaphoresis
   HEENT: NCAT, EOMI, MMM, +pursed lip breathing, crepitance to the
   midface.
   NECK: Asymmetric swelling R>L, Edematous, with +subcutaneous
   emphysemia, JVP unappreciable [**12-23**] edema
   Wound intact w/o purulent drainage. Drains with serosanguinous
   drainage.
   CARDIAC: Regular, +S1/S2, no [**1-24**] holosystolic murmur appreciated at the
   apex, fixed split s2 (vs. s3)
   LUNGS: Decreased Breath sounds at bilateral bases with mild crackles,
   +expiratory ronchi, no wheezes
   ABDOMEN: Soft, NTND, normal BS
   EXTREMITIES: No c/c/e
   SKIN: No rashes
   PULSES:  +2 radial and pedal
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   436 K/uL
   11.9 g/dL
   126 mg/dL
   0.7 mg/dL
   32 mEq/L
   2.9 mEq/L
   21 mg/dL
   106 mEq/L
   147 mEq/L
   34.6 %
   23.0 K/uL
        [image002.jpg]
                             [**2194-2-23**]  12:33 PM
                             [**2194-2-23**]  05:19 PM
                             [**2194-2-23**]  05:38 PM
                             [**2194-2-24**]  02:11 AM
                             [**2194-2-24**]  05:26 PM
                             [**2194-2-25**]  05:00 AM
                             [**2194-2-25**]  02:58 PM
                             [**2194-2-25**]  07:20 PM
                             [**2194-2-26**]  03:10 AM
                             [**2194-2-27**]  04:10 AM
   WBC
   20.0
   18.0
   19.4
   23.0
   Hct
   34.7
   35.1
   33.3
   33.6
   34.6
   Plt
   [**Telephone/Fax (3) 5295**]36
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.6
   0.7
   TropT
    0.03
   0.03
   TCO2
   24
   Glucose
   113
   109
   121
   179
   126
   Other labs: PT / PTT / INR:16.9/79.0/1.5, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b tracheal tear and
   subcutaneous emphysema.  Now transferred to CCU for management of afib
   with RVR. Febrile overnight with episode of afib/rvr, converted to
   sinus with amiodarone.
   # Wide Complex Tachycardia: ECG consistent with afib with RVR in
   setting of known LBBB.  Pt converted to sinus following amiodarone
   bolus for the second time during CCU admission. Amiodarone continued
   0.5mg/min gtt.  Now on heparin gtt. Afib likely exacerbated by
   CHF/mediastinitis.
   -- holding heparin pending thoracic surgery recs
   -- will discontinue amiodarone gtt temporarily, switch to oral when can
   take PO through PEG tube
   # CHF: NICDM. Patient with EF of 15-20%.  Patient desaturated while in
   the SICU prior to ccu admission, likely secondary to mild flash pulm
   edema in setting of afib.  Oxygenation improved with Atrovent and Lasix
   20mg IV x 2.
   -- Lasix IV PRN, given need to replete potassium and increase volume
   status
   -- Goal -1.5L neg today
   -- [**Hospital1 **] lytes
   -- cont Enaliprat IV
   -- consider carvedilol when able to tolerate orals
   -- start on spironolactone after can take Pos in PEG
   # Hypernatremia:  Na 150 on [**2-25**] with water deficit of 3.3 liters
   responded well to 500cc D5 bolus. Likely secondary to febrile illness
   and active diuresis for CHF.
   -- Will monitor Na ([**Hospital1 **] lytes) today
   -- gently bolus with D5 PRN
   # Subcutaneous Emyphysema/Mediastinitis/abscess:  POD1 s/p abscess
   debridement. She is currenlty on vanc/zosyn/cipro and Fluc for
   treatment of ?mediastinitis as she was febrile overnight with small
   bump in WBC.
   -- cont abx adjust per cultures
   -- speak to Thoracics regarding plan
   -- Video swallow on [**3-5**], if OK then transition to POs
   # HTN: on enalapril at home, cont Enalipril IV while NPO
   # Anxiety/Depression: hold Zoloft and Mirtazapine while NPO. Hold
   Lorazepam IV given somnolence.
   # Hyperlipidemia: hold statin while NPO
   # Hyperthyroidism: restart Levothyroxine when POs OK
   ICU Care
   Nutrition: NPO as above, will speak to thoracics regarding diet
   advancement
   Glycemic Control:
   Lines:  consider central line or PICC line today for better access
   20 Gauge - [**2194-2-26**] 04:30 PM
   Arterial Line - [**2194-2-26**] 11:09 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   I reviewed Dr.[**Last Name (STitle) 3146**]
s notes,Pt data and examined Pt .
   Overnight events noted and release of mediastinal abscess.
   Agree with plan of management,optimizing failure Rx and replenishing K+
   IV until Pt can have N/G tube.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-2-27**] 18:08 ------

2194-02-28 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Amiodarone d/c'd, pt in sinus rhythm.
   - Cx data pending. On Zosyn/Cipro/Fluc. D/c'd Vanc.
   - I/O's + 1L at 3pm, + 1.5L by 11pm. Gave lasix 20mg IV after potassium
   repletion.
   - Transitioned following meds to per PEG tube: carvedilol, enalopril,
   atorvastatin, levothyroxine, ciprofloxacine
   - Started TF
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-2-26**] 11:00 AM
   Ciprofloxacin - [**2194-2-27**] 06:00 PM
   Fluconazole - [**2194-2-27**] 08:00 PM
   Vancomycin - [**2194-2-27**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2194-2-28**] 12:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2194-2-27**] 12:30 PM
   Furosemide (Lasix) - [**2194-2-27**] 11:30 PM
   Lorazepam (Ativan) - [**2194-2-28**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-2-28**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.8
C (96.4
   HR: 85 (82 - 103) bpm
   BP: 110/56(72) {94/50(64) - 145/63(85)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 63 Inch
             Total In:
                                                                  2,403 mL
                                                                    291 mL
   PO:
             TF:
             74 mL
   IVF:
                                                                  2,283 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    849 mL
                                                                    520 mL
   Urine:
                                                                    729 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
   Balance:
                                                                  1,554 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Awake/alert, Oriented x2 to self and date, when asked for
   place she said [**Hospital1 **] in [**State 5270**], mild diaphoresis
   HEENT: NCAT, EOMI, MMM, +pursed lip breathing, crepitance to the
   midface.
   NECK: Asymmetric swelling R>L, Edematous, with +subcutaneous
   emphysemia, JVP unappreciable [**12-23**] edema
   Wound intact w/o purulent drainage. Drains with serosanguinous
   drainage.
   CARDIAC: Regular, +S1/S2, no [**1-24**] holosystolic murmur appreciated at the
   apex, fixed split s2 (vs. s3)
   LUNGS: Decreased Breath sounds at bilateral bases with mild crackles,
   +expiratory ronchi, no wheezes
   ABDOMEN: Soft, NTND, normal BS
   EXTREMITIES: No c/c/e
   SKIN: No rashes
   PULSES:  +2 radial and pedal
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   433 K/uL
   11.0 g/dL
   126 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.3
   19 mg/dL
   107 mEq/L
   145
   34.6 %
   21.2 K/uL
        [image002.jpg]
                             [**2194-2-23**]  05:19 PM
                             [**2194-2-23**]  05:38 PM
                             [**2194-2-24**]  02:11 AM
                             [**2194-2-24**]  05:26 PM
                             [**2194-2-25**]  05:00 AM
                             [**2194-2-25**]  02:58 PM
                             [**2194-2-25**]  07:20 PM
                             [**2194-2-26**]  03:10 AM
                             [**2194-2-27**]  04:10 AM
                             [**2194-2-28**]  04:54 AM
   WBC
   20.0
   18.0
   19.4
   23.0
   21.2
   Hct
   34.7
   35.1
   33.3
   33.6
   34.6
   34.6
   Plt
   [**Telephone/Fax (3) 5295**]36
   433
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.6
   0.7
   TropT
   0.03
   TCO2
   24
   Glucose
   113
   109
   121
   179
   126
   Other labs: PT / PTT / INR:17.0/28.7/1.5, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b esophageal tear and
   subcutaneous emphysema.  Now POD2 s/p neck debridement and repair of
   esophageal tear.
   .
   # Wide Complex Tachycardia: Afib likely exacerbated by
   CHF/mediastinitis. Responded well to amiodarone and treatment of
   infection.
   -- start anticoagulation with heparin today. Hold off coumadin in case
   needs repeat surgery
   -- rhythm control with amiodarone if needed because patient symptomatic
   -- continue beta blockers
   .
   # CHF:  Patient with EF of 30% on LV on OSH cath, 15-20% by echo at
   [**Hospital1 1**].  Patient desaturated while in the SICU, likely secondary to mild
   flash pulm edema in setting of afib.  Oxygenation has been stable with
   lasix diuresis.
   -- Lasix IV this morning because overloaded on exam
   -- Goal -1L neg today
   -- [**Hospital1 **] lytes
   -- cont Enalipril, Carvedilol, Spironolactone
   -- Change all meds to PO down PEG tube if able to decrease amount of
   IVF she gets to help diuresis
   .
   # Mediastinitis/Esophateal abscess:  POD2 s/p debridement and primary
   repair of esophageal tear.
   -- cont zosyn, cipro, fluc (day 3 of current regimen) and follow up
   cultures
   -- Swallow study on [**3-5**] per thoracics
   -- monitor edema, if stridorous will treat with Decadron, call
   thoracics
   .
   # HTN: on enalapril at home, will continue
   .
   # Anxiety/Depression: restarted Zoloft and Mirtazapine per PEG,
   lorazepam PRN
   .
   # Hyperlipidemia: restarted statin
   .
   # Hyperthyroidism: restarted Levothyroxine
   .
   FEN: NPO until swallow study on [**3-5**], TF initiated, f/u Nutrition recs.
   ACCESS: PIV's
   PROPHYLAXIS: bowel regimen
   CODE: Full Code
   DISPO: Cardiology floor service for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-2-28**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-2-26**] 11:09 PM
   20 Gauge - [**2194-2-27**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I reviewed overnight events,data and examined Pt.
   I agree with Dr.[**Last Name (STitle) 5142**]
s assessment and treatment plan.
   Would get Pt out of bed today.
   Spent 35 mins with case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-2-28**] 10:26 ------

2194-03-01 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2194-2-28**]:
   - PT to see today
   - Started heparin drip with lower goals (40-60) per surgery
   - Gave 20mg of IV lasix as not negative for the day
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-2-26**] 11:00 AM
   Fluconazole - [**2194-2-27**] 08:00 PM
   Vancomycin - [**2194-2-27**] 09:00 PM
   Ciprofloxacin - [**2194-2-28**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-3-1**] 12:16 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-2-28**] 06:00 PM
   Lorazepam (Ativan) - [**2194-3-1**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-1**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 70 (70 - 87) bpm
   BP: 115/45(66) {75/45(65) - 138/61(84)} mmHg
   RR: 22 (10 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 63 Inch
             Total In:
                                                                  1,701 mL
                                                                    608 mL
   PO:
             TF:
                                                                    771 mL
                                                                    375 mL
   IVF:
                                                                    720 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    250 mL
   Urine:
                                                                  2,135 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                     45 mL
   Balance:
                                                                   -479 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   GENERAL: Awake/alert, Oriented x2 to self and date, when asked for
   place she said [**Hospital1 **] in [**State 5270**], mild diaphoresis
   HEENT: NCAT, EOMI, MMM, +pursed lip breathing, crepitance to the
   midface.
   NECK: Asymmetric swelling R>L, Edematous, with +subcutaneous
   emphysemia, JVP unappreciable [**12-23**] edema
   Wound intact w/o purulent drainage. Drains with serosanguinous
   drainage.
   CARDIAC: Regular, +S1/S2, no [**1-24**] holosystolic murmur appreciated at the
   apex, fixed split s2 (vs. s3)
   LUNGS: Decreased Breath sounds at bilateral bases with mild crackles,
   +expiratory ronchi, no wheezes
   ABDOMEN: Soft, NTND, normal BS
   EXTREMITIES: No c/c/e
   SKIN: No rashes
   PULSES:  +2 radial and pedal
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   433 K/uL
   11.0 g/dL
   129 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   19 mg/dL
   107 mEq/L
   145 mEq/L
   34.6 %
   21.2 K/uL
                             [**2194-2-23**]  05:19 PM
                             [**2194-2-23**]  05:38 PM
                             [**2194-2-24**]  02:11 AM
                             [**2194-2-24**]  05:26 PM
                             [**2194-2-25**]  05:00 AM
                             [**2194-2-25**]  02:58 PM
                             [**2194-2-25**]  07:20 PM
                             [**2194-2-26**]  03:10 AM
                             [**2194-2-27**]  04:10 AM
                             [**2194-2-28**]  04:54 AM
   WBC
   20.0
   18.0
   19.4
   23.0
   21.2
   Hct
   34.7
   35.1
   33.3
   33.6
   34.6
   34.6
   Plt
   [**Telephone/Fax (3) 5295**]36
   433
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.6
   0.7
   0.9
   TropT
   0.03
   TCO2
   24
   Glucose
   113
   109
   121
   179
   126
   129
   Other labs: PT / PTT / INR:17.0/89.1/1.5, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b esophageal tear and
   subcutaneous emphysema.  Now POD3 s/p neck debridement and repair of
   esophageal tear.
   .
   # Wide Complex Tachycardia: Afib likely exacerbated by
   CHF/mediastinitis. Responded well to amiodarone and treatment of
   infection.  Back into AF this am with lower pressures and some evidence
   of fluid overload on exam.
   -- started anticoagulation with heparin at lower goals per surgery.
   Hold off coumadin in case needs repeat surgery
   -- rhythm control with amiodarone PO (400mg [**Hospital1 **] X 3-4 days then 400mg
   daily for a week and then 200mg daily for maintenance) because BP will
   not allow further increase of beta blockers
   -- continue beta blockers at current dose
   .
   # CHF:  Patient with EF of 30% on LV on OSH cath, 15-20% by echo at
   [**Hospital1 1**].  Crackles on exam today secondary to mild flash pulm edema in
   setting of afib.  Oxygenation has been stable with lasix diuresis.
   -- Rhythm control as above
   -- Lasix IV yesterday, negative 500cc yesterday. Goal even today
   -- Got 20mg IV lasix X 1 this am as was only -500ml overnight.
   Creatinine increased today though so likely at dry weight (and this was
   before going back into af)
   -- [**Hospital1 **] lytes
   -- cont Enalipril, Carvedilol, Spironolactone
   -- Change all meds to PO down PEG tube if able to decrease amount of
   IVF she gets to help diuresis
   .
   # Mediastinitis/Esophateal abscess:  POD3 s/p debridement and primary
   repair of esophageal tear.
   -- cont zosyn, cipro, fluc (day 4 of current regimen) and follow up
   cultures
   -- Swallow study on [**3-5**] per thoracics
   -- monitor edema, if stridorous will treat with Decadron, call
   thoracics
   .
   # HTN: on enalapril at home, will continue
   .
   # Anxiety/Depression: restarted Zoloft and Mirtazapine per PEG,
   lorazepam PRN
   .
   # Hyperlipidemia: restarted statin
   .
   # Hyperthyroidism: restarted Levothyroxine
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-3-1**] 03:11 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-2-26**] 11:09 PM
   20 Gauge - [**2194-2-28**] 05:30 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:
   Communication:  With patient and family
   Code status: Full code
   Disposition:  CCU
   ------ Protected Section ------
   Reviewed overnight course,data and examined Pt.
   Agree with Dr.[**Last Name (STitle) 5142**]
s notes.Slowly recovering.
   In view of Recurrent AF with RVR would initiate maintenance
   Amiodarone.,
   Spent 35 mins on Pt.
   Charels [**Doctor Last Name 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-3-1**] 10:20 ------

2194-03-02 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -AF in the am. STarted amio PO and converted to NSR and HRs came down
   to 80s.
   - Culture of sputum cannot be speciated because only one colony on the
   plate they suggested repeating culture instead
   - Stopped fluconzole because fungal cx neg
   - CXR done to look for pulm edema. Better than last one and creatinine
   up from day before so did not give further lasix
   - Thoracics will pull drains after swallow study next wed.
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2194-2-27**] 08:00 PM
   Vancomycin - [**2194-2-27**] 09:00 PM
   Ciprofloxacin - [**2194-2-28**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-3-1**] 11:26 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2194-3-1**] 08:15 AM
   Lorazepam (Ativan) - [**2194-3-2**] 05:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-2**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 82 (67 - 110) bpm
   BP: 136/57(82) {90/39(54) - 136/57(82)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.7 kg (admission): 76 kg
   Height: 63 Inch
             Total In:
                                                                  2,994 mL
                                                                    547 mL
   PO:
             TF:
                                                                  1,708 mL
                                                                    362 mL
   IVF:
                                                                    896 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,055 mL
                                                                    260 mL
   Urine:
                                                                  2,040 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
                                                                     15 mL
   Balance:
                                                                    939 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   GENERAL: Awake/alert, Oriented x2 to self and date, when asked for
   place she continues to believe she
s in [**State 5270**], mild diaphoresis
   HEENT: NCAT, EOMI, MMM, +pursed lip breathing, crepitance is absent.
   NECK: JVP unappreciable [**12-23**] edema
   Wound intact w/o purulent drainage. Drains with serosanguinous
   drainage.
   CARDIAC: Regular, +S1/S2, no [**1-24**] holosystolic murmur appreciated at the
   apex, paradoxical split s2 (vs. s3)
   LUNGS: Decreased Breath sounds at bilateral bases with mild crackles,
   +expiratory ronchi, no wheezes
   ABDOMEN: Soft, NT, normal BS, mild distension (+ BM yesterday)
   EXTREMITIES: No c/c/e
   SKIN: No rashes
   PULSES:  +2 radial and pedal
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   471 K/uL
   10.7 g/dL
   145 mg/dL
   1.2 mg/dL
   32 mEq/L
   3.7 mEq/L
   31 mg/dL
   104 mEq/L
   147 mEq/L
   32.7 %
   20.1 K/uL
        [image002.jpg]
                             [**2194-2-24**]  02:11 AM
                             [**2194-2-24**]  05:26 PM
                             [**2194-2-25**]  05:00 AM
                             [**2194-2-25**]  02:58 PM
                             [**2194-2-25**]  07:20 PM
                             [**2194-2-26**]  03:10 AM
                             [**2194-2-27**]  04:10 AM
                             [**2194-2-28**]  04:54 AM
                             [**2194-3-1**]  07:24 AM
                             [**2194-3-2**]  05:25 AM
   WBC
   20.0
   18.0
   19.4
   23.0
   21.2
   21.8
   20.1
   Hct
   34.7
   35.1
   33.3
   33.6
   34.6
   34.6
   33.5
   32.7
   Plt
   [**Telephone/Fax (3) 5295**]36
   433
   484
   471
   Cr
   0.7
   0.8
   0.8
   0.8
   0.6
   0.7
   0.9
   1.2
   Glucose
   109
   121
   179
   126
   129
   145
   Other labs: PT / PTT / INR:17.0/61.2/1.5, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b esophageal tear and
   subcutaneous emphysema.  Now POD3 s/p neck debridement and repair of
   esophageal tear.
   # Wide Complex Tachycardia: Afib likely exacerbated by
   CHF/mediastinitis. Responded well to amiodarone and treatment of
   infection.  Back into AF this am with lower pressures and some evidence
   of fluid overload on exam.
   -- started anticoagulation with heparin at lower goals per surgery.
   Hold off coumadin in case needs repeat surgery
   -- rhythm control with amiodarone PO (400mg [**Hospital1 **] X 3-4 days then 400mg
   daily for a week and then 200mg daily for maintenance) because BP will
   not allow further increase of beta blockers
   -- continue beta blockers at current dose
   # CHF:  Patient with EF of 30% on LV on OSH cath, 15-20% by echo at
   [**Hospital1 1**].  Crackles on exam today secondary to mild flash pulm edema in
   setting of afib.  Oxygenation has been stable with lasix diuresis.
   -- Rhythm control as above
   -- Lasix IV yesterday, negative 500cc yesterday. Goal even today
   -- Got 20mg IV lasix X 1 this am as was only -500ml overnight.
   Creatinine increased today though so likely at dry weight (and this was
   before going back into af)
   -- [**Hospital1 **] lytes
   -- cont Enalipril, Carvedilol, Spironolactone
   -- Change all meds to PO down PEG tube if able to decrease amount of
   IVF she gets to help diuresis
   # Mediastinitis/Esophateal abscess:  POD3 s/p debridement and primary
   repair of esophageal tear.
   -- cont zosyn, cipro, fluc (day 4 of current regimen) and follow up
   cultures
   -- Swallow study on [**3-5**] per thoracics
   -- monitor edema, if stridorous will treat with Decadron, call
   thoracics
   # HTN: on enalapril at home, will continue
   # Anxiety/Depression: restarted Zoloft and Mirtazapine per PEG,
   lorazepam PRN
   # Hyperlipidemia: restarted statin
   # Hyperthyroidism: restarted Levothyroxine
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2194-3-1**] 03:11 AM 60 mL/hour;
   bowel regimen
   Glycemic Control:
   Lines: Arterial Line - [**2194-2-26**] 11:09 PM
   20 Gauge - [**2194-2-28**] 05:30 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:
   Communication:  With patient and family
   Code status: Full code
   Disposition:  CCU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-3-1**] 06:41 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2194-2-26**] 11:09 PM
   20 Gauge - [**2194-2-28**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I reviewed overnight course,data and examined Pt.
   Agree with asssessment,notes and plan of treatment outlined by
   Dr.[**Last Name (STitle) **].Will prepare for transfer to [**Hospital1 **].
   Spent 35mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2194-3-2**] 09:27 ------

2194-03-03 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PICC placed, NSVT post picc with coughing. withdrew 2 cm, NSVT resolved
   + spirono;lactone/coreg
   restarted fluc
   PM na 138 after free h2o
   CT [**Doctor First Name **] drained a bit of fluid from neck and sent for cx
   Allergies:
   Morphine
   Unknown;
   Opioids: Morphine   Related
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2194-2-28**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-3-3**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Fentanyl - [**2194-3-2**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-3**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 68 (61 - 86) bpm
   BP: 117/41(62) {90/31(48) - 157/77(112)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 76 kg
   Height: 63 Inch
             Total In:
                                                                  3,206 mL
                                                                    761 mL
   PO:
             TF:
                                                                  1,448 mL
                                                                    343 mL
   IVF:
                                                                    698 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    225 mL
   Urine:
                                                                  1,160 mL
                                                                    205 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
                                                                     40 mL
                                                                     20 mL
   Balance:
                                                                  1,806 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GENERAL: Awake/alert, Oriented x2 to self and date, when asked for
   place she continues to believe she
s in [**State 5270**], mild diaphoresis
   HEENT: NCAT, EOMI, MMM, +pursed lip breathing, crepitance is absent.
   NECK: JVP unappreciable [**12-23**] edema
   Wound intact w/o purulent drainage. Drains with serosanguinous
   drainage.
   CARDIAC: Regular, +S1/S2, no [**1-24**] holosystolic murmur appreciated at the
   apex, paradoxical split s2 (vs. s3)
   LUNGS: Decreased Breath sounds at bilateral bases with mild crackles,
   +expiratory ronchi, no wheezes
   ABDOMEN: Soft, NT, normal BS, mild distension (+ BM yesterday)
   EXTREMITIES: No c/c/e
   SKIN: No rashes
   PULSES:  +2 radial and pedal
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   419 K/uL
   10.3 g/dL
   130 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.0 mEq/L
   28 mg/dL
   101 mEq/L
   138 mEq/L
   29.5 %
   19.8 K/uL
        [image002.jpg]
                             [**2194-2-25**]  05:00 AM
                             [**2194-2-25**]  02:58 PM
                             [**2194-2-25**]  07:20 PM
                             [**2194-2-26**]  03:10 AM
                             [**2194-2-27**]  04:10 AM
                             [**2194-2-28**]  04:54 AM
                             [**2194-3-1**]  07:24 AM
                             [**2194-3-2**]  05:25 AM
                             [**2194-3-2**]  04:47 PM
                             [**2194-3-3**]  04:45 AM
   WBC
   18.0
   19.4
   23.0
   21.2
   21.8
   20.1
   19.8
   Hct
   35.1
   33.3
   33.6
   34.6
   34.6
   33.5
   32.7
   29.5
   Plt
   [**Telephone/Fax (3) 5349**]33
   484
   471
   419
   Cr
   0.8
   0.8
   0.6
   0.7
   0.9
   1.2
   1.2
   1.1
   Glucose
   121
   179
   126
   129
   145
   133
   130
   Other labs: PT / PTT / INR:16.5/82.0/1.5, CK / CKMB /
   Troponin-T:127/4/0.03, ALT / AST:18/15, Alk Phos / T Bili:74/1.0,
   Differential-Neuts:94.4 %, Lymph:3.2 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.3 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   79 yof with hx of HTN, Hyperlipidemia, Hypothyroidism, who presented to
   [**Hospital 839**] Hosp with SOB and chest pressure, found to be in acute CHF,
   transferred here s/p traumatic intubation c/b esophageal tear and
   subcutaneous emphysema.  Now POD3 s/p neck debridement and repair of
   esophageal tear.
   # Wide Complex Tachycardia: Afib likely exacerbated by
   CHF/mediastinitis. Responded well to amiodarone and treatment of
   infection.  Back into AF this am with lower pressures and some evidence
   of fluid overload on exam.
   -- started anticoagulation with heparin at lower goals per surgery.
   Hold off coumadin in case needs repeat surgery
   -- rhythm control with amiodarone PO (400mg [**Hospital1 **] X 3-4 days then 400mg
   daily for a week and then 200mg daily for maintenance) because BP will
   not allow further increase of beta blockers
   -- continue beta blockers at current dose
   # CHF:  Patient with EF of 30% on LV on OSH cath, 15-20% by echo at
   [**Hospital1 1**].  Crackles on exam today secondary to mild flash pulm edema in
   setting of afib.  Oxygenation has been stable with lasix diuresis.
   -- Rhythm control as above
   -- Lasix IV yesterday, negative 500cc yesterday. Goal even today
   -- Got 20mg IV lasix X 1 this am as was only -500ml overnight.
   Creatinine increased today though so likely at dry weight (and this was
   before going back into af)
   -- [**Hospital1 **] lytes
   -- cont Enalipril, Carvedilol, Spironolactone
   -- Change all meds to PO down PEG tube if able to decrease amount of
   IVF she gets to help diuresis
   # Mediastinitis/Esophateal abscess:  POD3 s/p debridement and primary
   repair of esophageal tear.
   -- cont zosyn, cipro, fluc (day 4 of current regimen) and follow up
   cultures
   -- Swallow study on [**3-5**] per thoracics
   -- monitor edema, if stridorous will treat with Decadron, call
   thoracics
   # HTN: on enalapril at home, will continue
   # Anxiety/Depression: restarted Zoloft and Mirtazapine per PEG,
   lorazepam PRN
   # Hyperlipidemia: restarted statin
   # Hyperthyroidism: restarted Levothyroxine
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2194-3-3**] 03:50 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2194-3-2**] 12:00 PM
   Arterial Line - [**2194-3-2**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: